US07619100B2
Benzyl 4-(cyclopropylcarbonyl)piperazin-1-carboxylate
In 35 mL of N,N-dimethylformamide were dissolved benzyl 1-piperazinecarboxylate (5.00 g, 22.7 mmol) and cyclopropanecarboxylic acid (2.54 g, 29.5 mmol), and 1-ethyl-3-(3-(N,N-dimethylamino)propyl)-carbodiimide hydrochloride (6.53 g, 34.1 mmol), 1-hydroxybenzotriazole (4.52 g, 29.5 mmol) and triethylamine (3.60 g, 35.9 mmol) were added thereto at room temperature, followed by stirring at the same temperature for three hours. The reaction mixture was mixed with water, and extracted twice with ethyl acetate. The organic layer was sequentially washed with water twice, with a saturated aqueous solution of sodium bicarbonate once and with brine once, and then dried over anhydrous sodium sulfate. The organic layer was passed through a silica gel column (Fuji Silysia, NH Silica gel) and evaporated to give the title compound (6.10 g, 93.1%) as a white amorphous.

reactant | benzyl 1-piperazinecarboxylate | 22.7 mmol, 5.00 g | N1(CCNCC1)C(=O)OCC1=CC=CC=C1 | C12H16N2O2
reactant | cyclopropanecarboxylic acid | 29.5 mmol, 2.54 g | C1(CC1)C(=O)O | C4H6O2
reactant | 1-ethyl-3-(3-(N,N-dimethylamino)propyl)-carbodiimide hydrochloride | 34.1 mmol, 6.53 g | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxybenzotriazole | 29.5 mmol, 4.52 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | triethylamine | 35.9 mmol, 3.60 g | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 35 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | Benzyl 4-(cyclopropylcarbonyl)piperazin-1-carboxylate | 6.10 g, 93.1% | C1(CC1)C(=O)N1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C16H20N2O3
